.title vm_OR2_tied
.include "C:/Users/chris/ngspice/Prompts/autohv_bicmos180_pdk/autohv_bicmos180_case.lib"
.param case=0
.param VDD=3.3
Vdd vdd 0 {VDD}
Vin in 0 {VDD/2}
X1 p1 in vdd vdd PMOS33 W={(2.9068)*1e-6} L=0.35u
X2 nr in p1 vdd PMOS33 W={(2.9068)*1e-6} L=0.35u
X3 nr in 0 0 NMOS33 W={(0.3000)*1e-6} L=0.35u
X4 nr in 0 0 NMOS33 W={(0.3000)*1e-6} L=0.35u
X5 out nr vdd vdd PMOS33 W={(2.1378)*1e-6} L=0.35u
X6 out nr 0 0 NMOS33 W={(0.6537)*1e-6} L=0.35u
.control
foreach cs 0 1 2 3 4
 foreach vd 2.970 3.300 3.630
  foreach tp -55 27 150
   alterparam case=$cs
   alterparam VDD=$vd
   reset
   option temp=$tp
   let half=$vd/2
   dc Vin 0 $vd 0.00660
   meas dc vm find v(in) when v(out)=$&half cross=1
   echo "RES cfg=tied cs=$cs vd=$vd tp=$tp vm=$&vm"
  end
 end
end
.endc
.end
